US05811456
Benzaldehyde (2-cyanoethyl)hydrazone is prepared by condensation of benzaldehyde with (2-cyanoethyl)hydrazine according to the following procedure:

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | (2-cyanoethyl)hydrazine | C(#N)CCNN | C3H7N3
product | Benzaldehyde (2-cyanoethyl)hydrazone | yield is 81% | C(#N)CCNN=CC1=CC=CC=C1 | C10H11N3
